US07723333B2
2,6-Dimethylphenyl 4-[(tert-butoxycarbonyl)amino]butanoate
2,6-Dimethylphenol (0.257 g, 2.1 mmol) and 4-[(tert-butoxycarbonyl)amino]butanoic acid (0.427 g, 2.1 mmol) were dissolved in THF (10 ml, dry) and DMAP (0.005 g, 0.04 mmol) was added. After cooling down to 0-2° C., EDC (0.483 g, 2.52 mmol) was added portionwise under nitrogen atmosphere. The ice bath was removed and stirring was continued over night at rt. After 17 h, the mixture was diluted with DCM (50 ml) and extracted with water (20 ml), HCl (2N, 20 ml) and water (20 ml) again. The organic layer was dried (MgSO4) and evaporated. The residue was purified by column chromatography on silica gel, using DCM/MeOH (95:5) as eluent, to give the title compound (0.493 g, 76%) as a colorless solid. 1H NMR (400 MHz, CDCl3): δ 1.45 (s 9H), 1.94-2.01 (m, 2H), 2.14 (s, 6H), 2.66 (t, 2H), 3.24-3.29 (m, 2H), 4.66 (bs, 1H), 7.05 (s, 3H); Mass Spectrum: M-tert-Bu+H+ 252.1

reactant | 2,6-Dimethylphenol | 2.1 mmol, 0.257 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | 4-[(tert-butoxycarbonyl)amino]butanoic acid | 2.1 mmol, 0.427 g | C(C)(C)(C)OC(=O)NCCCC(=O)O | C9H17NO4
reactant | EDC | 2.52 mmol, 0.483 g
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 0.04 mmol, 0.005 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2,6-Dimethylphenyl 4-[(tert-butoxycarbonyl)amino]butanoate | 0.493 g, 76% | C(C)(C)(C)OC(=O)NCCCC(=O)OC1=C(C=CC=C1C)C | C17H25NO4
